US08686024B2
Synthesis of indolin-5-yl 4-isopropylphenylcarbamate
To a solution of 1-benzylindolin-5-yl 4-isopropylphenylcarbamate (300 mg, 0.776 mmol) in a 2:1 solution (3.0 mL) of isopropylalcohol and 6 M HCl was added palladium 10% on carbon (30 mg) under nitrogen. After the vessel was purged with hydrogen, the reaction mixture was stirred under 1 atm of hydrogen at room temperature overnight. After the vessel was purged with nitrogen, the reaction mixture was filtered to remove palladium 10% on carbon. The filtrate was concentrated in vacuo. After the residue was diluted with ethyl acetate, the solution was washed with saturated NaHCO3 aqueous solution, brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=85/15 to 40/60) to obtain the title compound as a white solid (220 mg, 96%).

reactant | 1-benzylindolin-5-yl 4-isopropylphenylcarbamate | 0.776 mmol, 300 mg | C(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C25H26N2O2
reactant | HCl | 6 M | Cl | ClH
catalyst | palladium | [Pd] | Pd
solvent | isopropylalcohol | 3.0 mL | C(C)(C)O | C3H8O
product | indolin-5-yl 4-isopropylphenylcarbamate | 220 mg, 96% | C(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCNC2=CC1)=O | C18H20N2O2
